US07981874B2
4-[1-(Dimethoxy-phosphoryl)-1-fluoro-ethyl]-benzoic acid.
4-[1-(Dimethoxy-phosphoryl)-1-fluoro-ethyl]-benzoic acid methyl ester (0.56 g, 1.93 mmol) was made 0.25 M in dioxane and to this stirring solution was added 3 M aqueous LiOH (0.14 g, 5.79 mmol). The resulting mixture was stirred at ambient temperature for 18 hours. The mixture was neutralized with 1N aq HCl and concentrated in vacuo. The residue was carried forward without further purification: MS: cal'd 277 (MH+), exp 277 (MH+)

reactant | 4-[1-(Dimethoxy-phosphoryl)-1-fluoro-ethyl]-benzoic acid methyl ester | 1.93 mmol, 0.56 g | COC(C1=CC=C(C=C1)C(C)(F)P(=O)(OC)OC)=O | C12H16FO5P
reactant | LiOH | 5.79 mmol, 3 M, 0.14 g | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[1-(Dimethoxy-phosphoryl)-1-fluoro-ethyl]-benzoic acid | COP(=O)(OC)C(C)(F)C1=CC=C(C(=O)O)C=C1 | C11H14FO5P
